US09169271B2
5-(2,2-difluoroethoxyl)pyrazine-2-carboxylic acid
Potassium tert-butoxide (4.25 g, 37.84 mmol) is added to a solution of 5-chloropyrazine-2-carboxylic acid (1.00 g, 6.31 mmol) and difluoroethanol (2.59 g, 31.54 mmol) in DMF (20 mL) and the mixture is heated at 100° C. for 2 hours. The reaction is cooled to room temperature and stirred overnight under nitrogen. The reaction is quenched with 1 M HCl (30 mL) and extracted with ethyl acetate (3 times). The combined organic layers are dried over sodium sulfate, filtered, and concentrated to give the crude product. The crude product is purified by silica gel flash chromatography, eluting with a gradient of 0.5% to 10% methanol in dichloromethane and azeotroped with xylenes to remove residual DMF to give the title product (1.18 g, 91%). ES/MS (m/e): 205.0 (M+1).

reactant | Potassium tert-butoxide | 37.84 mmol, 4.25 g | CC(C)([O-])C.[K+]
reactant | 5-chloropyrazine-2-carboxylic acid | 6.31 mmol, 1.00 g | ClC=1N=CC(=NC1)C(=O)O | C5H3ClN2O2
reactant | difluoroethanol | 31.54 mmol, 2.59 g | FC(C)(O)F | C2H4F2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 5-(2,2-difluoroethoxyl)pyrazine-2-carboxylic acid | 1.18 g, 91% | FC(COC=1N=CC(=NC1)C(=O)O)F | C7H6F2N2O3
